US07737145B2
A mixture of methyl 4-[(hexahydro-1H-diazepin-1-yl)methyl]benzoate (109 mg, 0.44 mmol) and 1-(2-iodoethoxy)-4-(benzyl)benzene (120 mg, 0.44 mmol) in THF (4 mL) was treated with triethylamine (112 μl, 0.80 mmol) and heated at reflux for 5 hours. After cooling, the mixture was treated with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 55 mg of methyl 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoate; 1H NMR (300 MHz, CDCl3) δ 7.98 (d, 2H), 7.42 (d, 2H), 7.28 (dd, 2H), 7.17 (d, 2H), 7.18 (dd, 1H), 7.09 (d, 2H), 6.82 (d, 2H), 4.05 (t, 2H), 3.92 (s, 2H), 3.91 (s, 3H), 3.69 (s, 2H), 2.97 (t, 2H), 2.88 (m, 2H), 2.84 (m, 2H), 2.69 (m, 4H), 1.81 (m, 2H) ppm.

reactant | methyl 4-[(hexahydro-1H-diazepin-1-yl)methyl]benzoate | 0.44 mmol, 109 mg | N1(NCCCCC1)CC1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
reactant | 1-(2-iodoethoxy)-4-(benzyl)benzene | 0.44 mmol, 120 mg | ICCOC1=CC=C(C=C1)CC1=CC=CC=C1 | C15H15IO
reactant | triethylamine | 0.80 mmol, 112 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | methyl 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoate | 55 mg | C1(=CC=CC=C1)CC1=CC=C(OCCN2CCN(CCC2)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C29H34N2O3
